US05480857
Ethyl 1-ethyl-3-trifluoromethylpyrazole-4-carboxylate (2.17 g) was dissolved in ethanol and potassium hydroxide (1.06 g) in water was added. The reaction was stirred at room temperature overnight. Ethanol was removed under reduced pressure and the resulting residue partitioned between water and ether. The aqueous layer was separated, acidified with hydrochloric acid (2M) and extracted with ether. The combined organic extracts were dried over anhydrous magnesium sulphate and evaporated in vacuo to give 1-ethyl-3-trifluoromethylpyrazole-4-carboxylic acid as a white solid (1.86 g). NMR (CDCl3) δ1.45(t,3H), 4.20(q,2H), 7.95(s,1H).

reactant | Ethyl 1-ethyl-3-trifluoromethylpyrazole-4-carboxylate | 2.17 g | C(C)N1N=C(C(=C1)C(=O)OCC)C(F)(F)F | C9H11F3N2O2
reactant | potassium hydroxide | 1.06 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-ethyl-3-trifluoromethylpyrazole-4-carboxylic acid | 1.86 g | C(C)N1N=C(C(=C1)C(=O)O)C(F)(F)F | C7H7F3N2O2
